### PR TITLE
[Merged by Bors] - feat: Homeomorphisms and IsometryEquivs based on `Equiv.piCongrLeft` and `Equiv.sumArrowEquivProdArrow`

### PR DESCRIPTION
**Pull request by scholzhannah**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Equiv/Fin.lean [hunk 1]
```diff
@@ -498,3 +498,8 @@ instance subsingleton_fin_zero : Subsingleton (Fin 0) :=
 /-- `Fin 1` is a subsingleton. -/
 instance subsingleton_fin_one : Subsingleton (Fin 1) :=
   finOneEquiv.subsingleton
+
+/-- The natural `Equiv` between `(Fin m → X) × (Fin n → X)` and `(Fin (m + n) → X)`.-/
+def Equiv.finArrowProdEquivFinAddArrow {α : Type*} (m n : ℕ) :
+    (Fin m → α) × (Fin n → α) ≃ (Fin (m + n) → α) :=
+  (sumArrowEquivProdArrow _ _ _).symm.trans (finSumFinEquiv.arrowCongr (Equiv.refl _))
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin.lean:505]: I think it might be best to construct this explicitly with `Fin.append`, rather than build it through composition; that way you get the fact that it is equal to `Fin.append` by definition.

File: Mathlib/Topology/Homeomorph.lean [hunk 2]
```diff
@@ -701,6 +701,25 @@ def ulift.{u, v} {X : Type u} [TopologicalSpace X] : ULift.{v, u} X ≃ₜ X whe
...
+    simp only [Equiv.sumArrowEquivProdArrow, Equiv.coe_fn_mk, continuous_prod_mk]
+    continuity
+  continuous_invFun := continuous_pi fun i ↦ match i with
+    | .inl i => by apply (continuous_apply _).comp' continuous_fst
+    | .inr i => by apply (continuous_apply _).comp' continuous_snd
+
+/-- An equivalence `ι ≃ ι'` yields the homeomorphism `(ι → X) ≃ₜ (ι' → X)`.-/
+def arrowCongrLeft {ι ι' : Type*} (e : ι ≃ ι') : (ι → X) ≃ₜ (ι' → X) :=
+  piCongrLeft (Y := fun _ ↦ X) e
+
```
Comment (eric-wieser) [inline Mathlib/Topology/Homeomorph.lean:718]: I think this one probably isn't worth having, unless there's precedent in the non-homeomorph versions.

If you do decide to keep it based on that, please change `def` to `abbrev` so that we don't need API about both.

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 3]
```diff
@@ -483,6 +484,39 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
 protected theorem completeSpace [CompleteSpace β] (e : α ≃ᵢ β) : CompleteSpace α :=
   e.completeSpace_iff.2 ‹_›
 
+/-- `Equiv.piCongrLeft` as an `IsometryEquiv`: this is the natural
+`∀ i, Y i ≃ᵢ ∀ j, Y (e.symm j)` obtained from a bijection `ι ≃ ι'` of finite types.-/
+def piCongrLeftofFintype' {ι' : Type*} [Fintype ι] [Fintype ι'] {Y : ι → Type*}
```
Comment (eric-wieser) [inline Mathlib/Topology/MetricSpace/Isometry.lean:489]: I think you can probably drop `ofFintype` from the name here and below, since the metric space structure is present in the instance for metric spaces on pi types

File: Mathlib/Topology/Homeomorph.lean [hunk 4]
```diff
@@ -701,6 +701,25 @@ def ulift.{u, v} {X : Type u} [TopologicalSpace X] : ULift.{v, u} X ≃ₜ X whe
...
 
+/-- `Equiv.sumArrowEquivProdArrow` as a homeomorphism. The natural homeomoorphism
+`(ι ⊕ ι' → X) ≃ₜ (ι → X) × (ι' → X)` -/
+def sumArrowEquivProdArrow {ι ι' : Type*} : (ι ⊕ ι' → X) ≃ₜ (ι → X) × (ι' → X)  where
+  toEquiv := Equiv.sumArrowEquivProdArrow _ _ _
+  continuous_toFun := by
+    simp only [Equiv.sumArrowEquivProdArrow, Equiv.coe_fn_mk, continuous_prod_mk]
+    continuity
+  continuous_invFun := continuous_pi fun i ↦ match i with
+    | .inl i => by apply (continuous_apply _).comp' continuous_fst
```
Comment (eric-wieser) [inline Mathlib/Topology/Homeomorph.lean:712]: Can you replace `by apply` with ` ` here?

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 5]
```diff
@@ -483,6 +484,39 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
 protected theorem completeSpace [CompleteSpace β] (e : α ≃ᵢ β) : CompleteSpace α :=
   e.completeSpace_iff.2 ‹_›
 
+/-- `Equiv.piCongrLeft` as an `IsometryEquiv`: this is the natural
```
Comment (eric-wieser) [inline Mathlib/Topology/MetricSpace/Isometry.lean:487]:
```suggestion
/-- `Equiv.piCongrLeft'` as an `IsometryEquiv`: this is the natural
```
right?

**Review by eric-wieser — COMMENTED** [review]
Thanks, it's good to have these more-bundled versions.

I'll probably have a few more comments on naming once the `Fin.append` thing is resolved.

File: Mathlib/Topology/Homeomorph.lean (hunk 4 above)
Comment (scholzhannah) [reply Mathlib/Topology/Homeomorph.lean:712]: Unfortunately that does not work

File: Mathlib/Logic/Equiv/Fin.lean [hunk 6]
```diff
@@ -498,3 +498,13 @@ instance subsingleton_fin_zero : Subsingleton (Fin 0) :=
...
+
+/-- The natural `Equiv` between `(Fin m → α) × (Fin n → α)` and `(Fin (m + n) → α)`.-/
+def Equiv.finArrowProdEquivFinAddArrow {α : Type*} (m n : ℕ) :
+    (Fin m → α) × (Fin n → α) ≃ (Fin (m + n) → α) where
+  toFun := fun ⟨f, g⟩ ↦ Fin.append f g
+  invFun := fun f ↦ ⟨fun i ↦ f (Fin.castAdd n i), fun i ↦ f (Fin.natAdd m i)⟩
+  left_inv := by simp [Function.LeftInverse]
+  right_inv := by
+    unfold Fin.append Fin.addCases
+    simp [Function.RightInverse, Function.LeftInverse]
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin.lean:510]: Slightly shorter:
```suggestion
  toFun fg := Fin.append fg.1 fg.2
  invFun f := ⟨fun i ↦ f (Fin.castAdd n i), fun i ↦ f (Fin.natAdd m i)⟩
  left_inv fg := by simp
  right_inv f := by
    unfold Fin.append Fin.addCases
    simp
```

I think the `unfold` here indicates we have a missing lemma; can you add
```lean
theorem Fin.append_castAdd_natAdd :
    (Fin.append (fun i => f (Fin.castAdd n i)) fun i => f (Fin.natAdd m i)) = f := rfl
```
near `FIn.append` so that we can avoid the `unfold`?

File: Mathlib/Logic/Equiv/Fin.lean [hunk 7]
```diff
@@ -498,3 +498,13 @@ instance subsingleton_fin_zero : Subsingleton (Fin 0) :=
 /-- `Fin 1` is a subsingleton. -/
 instance subsingleton_fin_one : Subsingleton (Fin 1) :=
   finOneEquiv.subsingleton
+
+/-- The natural `Equiv` between `(Fin m → α) × (Fin n → α)` and `(Fin (m + n) → α)`.-/
+def Equiv.finArrowProdEquivFinAddArrow {α : Type*} (m n : ℕ) :
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin.lean:503]: It's super helpful to put 
```suggestion
@[simps]
def Equiv.finArrowProdEquivFinAddArrow {α : Type*} (m n : ℕ) :
```
on definitions like these, as then Lean generates a `@[simp]` (no `s`) lemma explaining what the forward and reverse directions of the map are.

File: Mathlib/Topology/Homeomorph.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Topology/Homeomorph.lean:712]: Strange!

File: Mathlib/Logic/Equiv/Fin.lean [hunk 8]
```diff
@@ -498,3 +498,12 @@ instance subsingleton_fin_zero : Subsingleton (Fin 0) :=
 /-- `Fin 1` is a subsingleton. -/
 instance subsingleton_fin_one : Subsingleton (Fin 1) :=
   finOneEquiv.subsingleton
+
+/-- The natural `Equiv` between `(Fin m → α) × (Fin n → α)` and `(Fin (m + n) → α)`.-/
+@[simps]
+def Equiv.finArrowProdEquivFinAddArrow {α : Type*} (m n : ℕ) :
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin.lean:504]: I suspect a better name for this would be `Fin.appendEquiv`. Perhaps @YaelDillies has opinions on naming here.

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 9]
```diff
@@ -483,6 +484,34 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
...
+    [∀ j, PseudoEMetricSpace (Y j)] (e : ι ≃ ι') : (∀ i, Y (e i)) ≃ᵢ ∀ j, Y j :=
+  (piCongrLeft' e.symm).symm
+
+/-- `Equiv.sumArrowEquivProdArrow` as an `IsometryEquiv`.-/
+def sumArrowEquivProdArrow [Fintype α] [Fintype β] : (α ⊕ β → γ) ≃ᵢ (α → γ) × (β → γ) :=
+  mk (Equiv.sumArrowEquivProdArrow _ _ _) (by
+    intro f1 f2
+    simp_rw [PseudoEMetricSpace.toEDist, Prod.pseudoEMetricSpaceMax, pseudoEMetricSpacePi,
+      instEDistForall, Finset.sup_univ_eq_iSup, iSup_sum]
+    rfl)
```
Comment (eric-wieser) [inline Mathlib/Topology/MetricSpace/Isometry.lean:509]: These three should all have `@[simps]`

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 10]
```diff
@@ -483,6 +484,34 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
...
+
+/-- The natural `IsometryEquiv` between `(Fin m → α) × (Fin n → α)` and `(Fin (m + n) → α)`.-/
+def finArrowProdHomeomorphFinAddArrow (m n : ℕ) : (Fin m → α) × (Fin n → α) ≃ᵢ (Fin (m + n) → α) :=
```
Comment (eric-wieser) [inline Mathlib/Topology/MetricSpace/Isometry.lean:512]: Can you define this one to be defeq to the one in the other file, and then add `simps` too?

File: Mathlib/Logic/Equiv/Fin.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Logic/Equiv/Fin.lean:504]: Yes I agree. That would match `Fin.snocEquiv` and friends. Do you think you could also make it dependent?

Comment (eric-wieser) [reply Mathlib/Logic/Equiv/Fin.lean:504]: `Fin.append` is not dependent so I think that is out of scope.

Comment (YaelDillies) [reply Mathlib/Logic/Equiv/Fin.lean:504]: Right

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 11]
```diff
@@ -483,6 +484,41 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
...
+      instEDistForall, Finset.sup_univ_eq_iSup, iSup_sum])
+
+/-- The natural `IsometryEquiv` between `(Fin m → α) × (Fin n → α)` and `(Fin (m + n) → α)`.-/
+@[simps!]
+def finArrowProdHomeomorphFinAddArrow (m n : ℕ) : (Fin m → α) × (Fin n → α) ≃ᵢ (Fin (m + n) → α) :=
+  mk (Fin.appendEquiv _ _) (by
+    intro
+    simp [PseudoEMetricSpace.toEDist, pseudoEMetricSpacePi, instEDistForall,
+      Finset.sup_univ_eq_iSup, ← Equiv.iSup_comp (e := finSumFinEquiv), Prod.pseudoEMetricSpaceMax,
+      iSup_sum])
```
Comment (eric-wieser) [inline Mathlib/Topology/MetricSpace/Isometry.lean:520]: Is a helper lemma that says `edist (append x y) (append x2 y2) = max (edist x x2) (edist y y2)` helpful here?

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 12]
```diff
@@ -483,6 +484,45 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
...
   e.completeSpace_iff.2 ‹_›
 
+/-- `Equiv.piCongrLeft'` as an `IsometryEquiv`: this is the natural
+`∀ i, Y i ≃ᵢ ∀ j, Y (e.symm j)` obtained from a bijection `ι ≃ ι'` of finite types.-/
+@[simps!]
+def piCongrLeft' {ι' : Type*} [Fintype ι] [Fintype ι'] {Y : ι → Type*}
+    [∀ j, PseudoEMetricSpace (Y j)] (e : ι ≃ ι') : (∀ i, Y i) ≃ᵢ ∀ j, Y (e.symm j) :=
+  mk (Equiv.piCongrLeft' _ e) (by
+    intro x1 x2
+    simp_rw [PseudoEMetricSpace.toEDist, pseudoEMetricSpacePi, instEDistForall,
```
Comment (eric-wieser) [inline Mathlib/Topology/MetricSpace/Isometry.lean:494]: Using the names of instances like this should be a last resort; typically next to the instance, you'll find the lemma that does what you actualy want. In this case, it's `edist_pi_def`. Similarly for `Prod.pseudoEMetricSpaceMax` and a few others below.

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 13]
```diff
@@ -483,6 +484,45 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
...
+@[simps!]
+def piCongrLeft {ι' : Type*} [Fintype ι] [Fintype ι'] {Y : ι' → Type*}
+    [∀ j, PseudoEMetricSpace (Y j)] (e : ι ≃ ι') : (∀ i, Y (e i)) ≃ᵢ ∀ j, Y j :=
+  (piCongrLeft' e.symm).symm
+
+/-- `Equiv.sumArrowEquivProdArrow` as an `IsometryEquiv`.-/
+@[simps!]
+def sumArrowEquivProdArrow [Fintype α] [Fintype β] : (α ⊕ β → γ) ≃ᵢ (α → γ) × (β → γ) :=
+  mk (Equiv.sumArrowEquivProdArrow _ _ _) (by
+    intro
```
Comment (eric-wieser) [inline Mathlib/Topology/MetricSpace/Isometry.lean:509]: Referring to `mk` directly isn't very idiomatic; I think this would be better spelt as
```suggestion
def sumArrowEquivProdArrow [Fintype α] [Fintype β] : (α ⊕ β → γ) ≃ᵢ (α → γ) × (β → γ) where
  toEquiv := Equiv.sumArrowEquivProdArrow _ _ _
  isometry_toFun x := by
```
which while longer, is more idiomatic.

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 14]
```diff
@@ -394,6 +394,11 @@ lemma append_comp_rev {m n} (xs : Fin m → α) (ys : Fin n → α) :
     append xs ys ∘ rev = append (ys ∘ rev) (xs ∘ rev) ∘ cast (Nat.add_comm ..) :=
   funext <| append_rev xs ys
 
+theorem append_castAdd_natAdd {f : Fin (m + n) → α} :
+    (append (fun i ↦ f (castAdd n i)) fun i ↦ f (natAdd m i)) = f := by
```
Comment (YaelDillies) [inline Mathlib/Data/Fin/Tuple/Basic.lean:398]:
```suggestion
    append (fun i ↦ f (castAdd n i)) (fun i ↦ f (natAdd m i)) = f := by
```
feels more readable

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 15]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Sébastien Gouëzel
 -/
 import Mathlib.Topology.MetricSpace.Antilipschitz
+import Mathlib.Data.Fintype.Lattice
```
Comment (YaelDillies) [inline Mathlib/Topology/MetricSpace/Isometry.lean:7]: I'm surprised you need to import this here. Is it not already transitively imported?
```suggestion
```

Comment (scholzhannah) [reply Mathlib/Topology/MetricSpace/Isometry.lean:7]: I thought so, too. But lean does not find `Finset.sup_univ_eq_iSup` if I take the import away.

File: Mathlib/Topology/Homeomorph.lean [hunk 16]
```diff
@@ -701,6 +701,21 @@ def ulift.{u, v} {X : Type u} [TopologicalSpace X] : ULift.{v, u} X ≃ₜ X whe
   continuous_invFun := continuous_uLift_up
   toEquiv := Equiv.ulift
 
+/-- `Equiv.sumArrowEquivProdArrow` as a homeomorphism. The natural homeomoorphism
```
Comment (YaelDillies) [inline Mathlib/Topology/Homeomorph.lean:704]:
```suggestion
/-- `Equiv.sumArrowEquivProdArrow` as a homeomorphism. The natural homeomorphism
```

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 17]
```diff
@@ -483,6 +484,40 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
...
+def piCongrLeft {ι' : Type*} [Fintype ι] [Fintype ι'] {Y : ι' → Type*}
+    [∀ j, PseudoEMetricSpace (Y j)] (e : ι ≃ ι') : (∀ i, Y (e i)) ≃ᵢ ∀ j, Y j :=
+  (piCongrLeft' e.symm).symm
+
+/-- `Equiv.sumArrowEquivProdArrow` as an `IsometryEquiv`.-/
+@[simps!]
+def sumArrowEquivProdArrow [Fintype α] [Fintype β] : (α ⊕ β → γ) ≃ᵢ (α → γ) × (β → γ) where
+  toEquiv := Equiv.sumArrowEquivProdArrow _ _ _
+  isometry_toFun _ _ := by simp [Prod.edist_eq, edist_pi_def, Finset.sup_univ_eq_iSup, iSup_sum]
+
```
Comment (YaelDillies) [inline Mathlib/Topology/MetricSpace/Isometry.lean:509]: Can you also add that `sumArrowEquivProdArrow.toHomeomorph = .sumArrowEquivProdArrow`?

File: Mathlib/Topology/Homeomorph.lean [hunk 18]
```diff
@@ -701,6 +701,21 @@ def ulift.{u, v} {X : Type u} [TopologicalSpace X] : ULift.{v, u} X ≃ₜ X whe
...
+  toEquiv := Equiv.sumArrowEquivProdArrow _ _ _
+  continuous_toFun := by
+    simp only [Equiv.sumArrowEquivProdArrow, Equiv.coe_fn_mk, continuous_prod_mk]
+    continuity
+  continuous_invFun := continuous_pi fun i ↦ match i with
+    | .inl i => by apply (continuous_apply _).comp' continuous_fst
+    | .inr i => by apply (continuous_apply _).comp' continuous_snd
+
+/-- The natural homeomorphism between `(Fin m → X) × (Fin n → X)` and `(Fin (m + n) → X)`.-/
+def finArrowProdHomeomorphFinAddArrow (m n : ℕ) : (Fin m → X) × (Fin n → X) ≃ₜ (Fin (m + n) → X) :=
```
Comment (YaelDillies) [inline Mathlib/Topology/Homeomorph.lean:716]: Could this be
```suggestion
def _root_.Fin.appendHomeomorph (m n : ℕ) : (Fin m → X) × (Fin n → X) ≃ₜ (Fin (m + n) → X) :=
```
and can you please show `appendHomeomorph.toEquiv = appendEquiv`?

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 19]
```diff
@@ -483,6 +484,40 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
...
+    edist (Fin.append x y) (Fin.append x2 y2) = max (edist x x2) (edist y y2) := by
+  simp [edist_pi_def, Finset.sup_univ_eq_iSup, ← Equiv.iSup_comp (e := finSumFinEquiv),
+    Prod.edist_eq, iSup_sum]
+
+/-- The natural `IsometryEquiv` between `(Fin m → α) × (Fin n → α)` and `(Fin (m + n) → α)`.-/
+@[simps!]
+def _root_.Fin.appendIsometry (m n : ℕ) : (Fin m → α) × (Fin n → α) ≃ᵢ (Fin (m + n) → α) where
+  toEquiv := Fin.appendEquiv _ _
+  isometry_toFun _ _ := by simp_rw [Fin.appendEquiv, Fin.edist_append_eq_max_edist, Prod.edist_eq]
+
```
Comment (YaelDillies) [inline Mathlib/Topology/MetricSpace/Isometry.lean:520]: and similarly that `Fin.appendIsometry.toHomeomorph = Fin.appendHomeomorph`?

File: Mathlib/Topology/Homeomorph.lean (hunk 18 above)
Comment (scholzhannah) [reply Mathlib/Topology/Homeomorph.lean:716]: Would it make sense to have a lemma stating that before and then define `Fin.appendHomeomorph` using `Fin.appendEquiv` so that they could be definitionally equal?

Comment (YaelDillies) [reply Mathlib/Topology/Homeomorph.lean]: Sorry, I'm not sure I understand your suggestion. How can you prove `appendHomeomorph.toEquiv = appendEquiv` before `appendHomeomorph` is defined?

Comment (scholzhannah) [reply Mathlib/Topology/Homeomorph.lean]: I mean showing that `appendEquiv` is equal to the composition that I right now define `appendHomeomorph` to be.

Comment (eric-wieser) [reply Mathlib/Topology/Homeomorph.lean]: > and then define `Fin.appendHomeomorph` using `Fin.appendEquiv` so that they could be definitionally equal?

I think this is a good idea, though it might be sensible to add the basic `Continuous fun (x, y) => Fin.append x y` as a lemma too.

Comment (YaelDillies) [reply Mathlib/Topology/Homeomorph.lean]: Maybe. You can try! If you do so, I suggest making that lemma `private`

File: Mathlib/Topology/Homeomorph.lean [hunk 20]
```diff
@@ -701,6 +701,47 @@ def ulift.{u, v} {X : Type u} [TopologicalSpace X] : ULift.{v, u} X ≃ₜ X whe
...
+def sumArrowHomeomorphProdArrow {ι ι' : Type*} : (ι ⊕ ι' → X) ≃ₜ (ι → X) × (ι' → X)  where
+  toEquiv := Equiv.sumArrowEquivProdArrow _ _ _
+  continuous_toFun := by
+    simp only [Equiv.sumArrowEquivProdArrow, Equiv.coe_fn_mk, continuous_prod_mk]
+    continuity
+  continuous_invFun := continuous_pi fun i ↦ match i with
+    | .inl i => by apply (continuous_apply _).comp' continuous_fst
+    | .inr i => by apply (continuous_apply _).comp' continuous_snd
+
+private theorem _root_.Fin.appendEquiv_eq_Homeomorph (m n : ℕ) : Fin.appendEquiv m n =
```
Comment (scholzhannah) [inline Mathlib/Topology/Homeomorph.lean:716]: I feel like this could be nicer using `isHomeomorph_iff_exists_homeomorph` but that is further down the file. Maybe there could be a lemma like this for constructing `Homeomorph`s from `Equiv`s?

File: Mathlib/Logic/Equiv/Fin.lean [hunk 21]
```diff
@@ -498,3 +498,12 @@ instance subsingleton_fin_zero : Subsingleton (Fin 0) :=
 /-- `Fin 1` is a subsingleton. -/
 instance subsingleton_fin_one : Subsingleton (Fin 1) :=
   finOneEquiv.subsingleton
+
+/-- The natural `Equiv` between `(Fin m → α) × (Fin n → α)` and `(Fin (m + n) → α)`.-/
```
Comment (YaelDillies) [inline Mathlib/Logic/Equiv/Fin.lean:502]:
```suggestion
/-- The natural `Equiv` between `(Fin m → α) × (Fin n → α)` and `Fin (m + n) → α`. -/
```

File: Mathlib/Topology/Homeomorph.lean [hunk 22]
```diff
@@ -701,6 +701,47 @@ def ulift.{u, v} {X : Type u} [TopologicalSpace X] : ULift.{v, u} X ≃ₜ X whe
   continuous_invFun := continuous_uLift_up
   toEquiv := Equiv.ulift
 
+/-- `Equiv.sumArrowEquivProdArrow` as a homeomorphism. The natural homeomorphism
+`(ι ⊕ ι' → X) ≃ₜ (ι → X) × (ι' → X)` -/
```
Comment (YaelDillies) [inline Mathlib/Topology/Homeomorph.lean:705]:
```suggestion
/-- The natural homeomorphism `(ι ⊕ ι' → X) ≃ₜ (ι → X) × (ι' → X)`.
`Equiv.sumArrowEquivProdArrow` as a homeomorphism. -/
```
to make sure people have a natural language statement before a Lean one

File: Mathlib/Topology/Homeomorph.lean [hunk 23]
```diff
@@ -701,6 +701,47 @@ def ulift.{u, v} {X : Type u} [TopologicalSpace X] : ULift.{v, u} X ≃ₜ X whe
...
+  · simp [h]
+  · simp [h]
+
+theorem _root_.Fin.continuous_append (m n : ℕ) :
+    Continuous fun (p : (Fin m → X) × (Fin n → X)) ↦ Fin.append p.1 p.2 := by
+  suffices Continuous (Fin.appendEquiv m n) by exact this
+  rw [Fin.appendEquiv_eq_Homeomorph]
+  exact Homeomorph.continuous_toFun _
+
+/-- The natural homeomorphism between `(Fin m → X) × (Fin n → X)` and `(Fin (m + n) → X)`.-/
```
Comment (YaelDillies) [inline Mathlib/Topology/Homeomorph.lean:732]:
```suggestion
/-- The natural homeomorphism between `(Fin m → X) × (Fin n → X)` and `Fin (m + n) → X`. -/
```

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 24]
```diff
@@ -483,6 +484,49 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
 protected theorem completeSpace [CompleteSpace β] (e : α ≃ᵢ β) : CompleteSpace α :=
   e.completeSpace_iff.2 ‹_›
 
+/-- `Equiv.piCongrLeft'` as an `IsometryEquiv`: this is the natural
+`∀ i, Y i ≃ᵢ ∀ j, Y (e.symm j)` obtained from a bijection `ι ≃ ι'` of finite types.-/
```
Comment (YaelDillies) [inline Mathlib/Topology/MetricSpace/Isometry.lean:488]:
```suggestion
/--The natural isometry `∀ i, Y i ≃ᵢ ∀ j, Y (e.symm j)` obtained from a bijection `ι ≃ ι'` of fintypes.
`Equiv.piCongrLeft'` as an `IsometryEquiv`. -/
```

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 25]
```diff
@@ -483,6 +484,49 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
...
+@[simps!]
+def piCongrLeft' {ι' : Type*} [Fintype ι] [Fintype ι'] {Y : ι → Type*}
+    [∀ j, PseudoEMetricSpace (Y j)] (e : ι ≃ ι') : (∀ i, Y i) ≃ᵢ ∀ j, Y (e.symm j) where
+  toEquiv := Equiv.piCongrLeft' _ e
+  isometry_toFun x1 x2 := by
+    simp_rw [edist_pi_def, Finset.sup_univ_eq_iSup]
+    exact (Equiv.iSup_comp (g := fun b ↦ edist (x1 b) (x2 b)) e.symm)
+
+/-- `Equiv.piCongrLeft` as an `IsometryEquiv`: this is the natural
+`∀ i, Y (e i) ≃ᵢ ∀ j, Y j` obtained from a bijection `ι ≃ ι'` of finite types.-/
```
Comment (YaelDillies) [inline Mathlib/Topology/MetricSpace/Isometry.lean:498]: Same here

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 26]
```diff
@@ -483,6 +484,49 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
...
+@[simps!]
+def piCongrLeft {ι' : Type*} [Fintype ι] [Fintype ι'] {Y : ι' → Type*}
+    [∀ j, PseudoEMetricSpace (Y j)] (e : ι ≃ ι') : (∀ i, Y (e i)) ≃ᵢ ∀ j, Y j :=
+  (piCongrLeft' e.symm).symm
+
+/-- `Equiv.sumArrowEquivProdArrow` as an `IsometryEquiv`.-/
```
Comment (YaelDillies) [inline Mathlib/Topology/MetricSpace/Isometry.lean:504]: And here can we have the natural language statement?

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 27]
```diff
@@ -483,6 +484,49 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
...
+    sumArrowIsometryEquivProdArrow.toHomeomorph
+    = Homeomorph.sumArrowHomeomorphProdArrow (ι := α) (ι' := β) (X := γ) :=
+  rfl
+
+theorem _root_.Fin.edist_append_eq_max_edist (m n : ℕ) {x x2 : Fin m → α} {y y2 : Fin n → α} :
+    edist (Fin.append x y) (Fin.append x2 y2) = max (edist x x2) (edist y y2) := by
+  simp [edist_pi_def, Finset.sup_univ_eq_iSup, ← Equiv.iSup_comp (e := finSumFinEquiv),
+    Prod.edist_eq, iSup_sum]
+
+/-- The natural `IsometryEquiv` between `(Fin m → α) × (Fin n → α)` and `(Fin (m + n) → α)`.-/
```
Comment (YaelDillies) [inline Mathlib/Topology/MetricSpace/Isometry.lean:520]:
```suggestion
/-- The natural `IsometryEquiv` between `(Fin m → α) × (Fin n → α)` and `(Fin (m + n) → α)`.
`Fin.appendEquiv` as an isometry. -/
```

File: Mathlib/Topology/MetricSpace/Isometry.lean (hunk 26 above)
Comment (eric-wieser) [reply Mathlib/Topology/MetricSpace/Isometry.lean:504]: I'm not sure it adds much value, since it just restates the type anyway.

Comment (YaelDillies) [reply Mathlib/Topology/MetricSpace/Isometry.lean:504]: At least we should be consistent

File: Mathlib/Topology/Homeomorph.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Topology/Homeomorph.lean:716]: I tend to agree, but if you want to try that out, you should do so in another PR (probably after this one since this one is almost ready)

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 28]
```diff
@@ -483,6 +484,53 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
 protected theorem completeSpace [CompleteSpace β] (e : α ≃ᵢ β) : CompleteSpace α :=
   e.completeSpace_iff.2 ‹_›
 
+/-- The natural isometry `∀ i, Y i ≃ᵢ ∀ j, Y (e.symm j)` obtained from a bijection `ι ≃ ι'` of
+fintypes.
+`Equiv.piCongrLeft'` as an `IsometryEquiv`.-/
```
Comment (YaelDillies) [inline Mathlib/Topology/MetricSpace/Isometry.lean:489]:
```suggestion
fintypes. `Equiv.piCongrLeft'` as an `IsometryEquiv`. -/
```

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 29]
```diff
@@ -483,6 +484,53 @@ theorem completeSpace_iff (e : α ≃ᵢ β) : CompleteSpace α ↔ CompleteSpac
...
+    Prod.edist_eq, iSup_sum]
+
+/-- The natural `IsometryEquiv` between `(Fin m → α) × (Fin n → α)` and `Fin (m + n) → α`.
+`Fin.appendEquiv` as an `IsometryEquiv`.-/
+@[simps!]
+def _root_.Fin.appendIsometry (m n : ℕ) : (Fin m → α) × (Fin n → α) ≃ᵢ (Fin (m + n) → α) where
+  toEquiv := Fin.appendEquiv _ _
+  isometry_toFun _ _ := by simp_rw [Fin.appendEquiv, Fin.edist_append_eq_max_edist, Prod.edist_eq]
+
+theorem _root_.Fin.appendIsometry_eq_appendHomeomorph (m n : ℕ) :
```
Comment (YaelDillies) [inline Mathlib/Topology/MetricSpace/Isometry.lean:530]:
```suggestion
@[simp]
theorem _root_.Fin.appendIsometry_toHomeomorph (m n : ℕ) :
```

**Review by YaelDillies — APPROVED** [review]
maintainer merge

apart from the last batch of comments below. Thanks!

**Review by jcommelin — COMMENTED** [review]
bors d+
